US07598384B2
2-Phenylamino-6,7,8,9,9a,10-hexahydro-5aH-benzo[g]quinolin-5-one
To a solution of 2-chloro-2,5a,6,7,8,9,9a,10-octahydro-1H-benzo[g]quinolin-5-one (0.4 g, 1.7 mmol) and aniline (0.204 g, 2.2 mmol) in toluene (2 ml) under an argon atmosphere was added sodium tert-amylate (0.223 g, 2.2 mmol) and bis(tri-tert-butylphosphine)palladium (0.043 g, 0.085 mmol). The mixture was heated at reflux for 8 h. Then it was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel to give the title compound (0.03 g, 6%) as a colorless solid.

reactant | 2-chloro-2,5a,6,7,8,9,9a,10-octahydro-1H-benzo[g]quinolin-5-one | 1.7 mmol, 0.4 g | ClC1NC=2CC3C(C(C2C=C1)=O)CCCC3 | C13H16ClNO
reactant | aniline | 2.2 mmol, 0.204 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium tert-amylate | 2.2 mmol, 0.223 g | CCC(C)(C)[O-].[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(tri-tert-butylphosphine)palladium | 0.085 mmol, 0.043 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-Phenylamino-6,7,8,9,9a,10-hexahydro-5aH-benzo[g]quinolin-5-one | 0.03 g, 6% | C1(=CC=CC=C1)NC1=NC=2CC3C(C(C2C=C1)=O)CCCC3 | C19H20N2O
